US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-(N-acetyl-methylamino)-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide
Prepared from 4-amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methylamino-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide and acetylchloride in dioxane and triethylamine analogously to Example 2.

reactant | 4-amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methylamino-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)NC)CC1=CC2=C(NC=N2)C=C1)Cl | C22H26Cl2N6O3S
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-(N-acetyl-methylamino)-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)N(C(C)=O)C)CC1=CC2=C(NC=N2)C=C1)Cl | C24H28Cl2N6O4S
